US07259266B2
Ethyl 6-chloro-8-(2-phenylethynyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.30 g, 0.74 mmol) was dissolved in ethanol, mixed with Pt2O catalyst and reduced under a hydrogen atmosphere at 20 psi for 4 h at room temperature. The mixture was filtered, stripped and purified by flash chromatography on silica gel, giving ethyl 6-chloro-8-(2-phenylethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.21 g, 0.51 mmol). The product structure was consistent with 1H, 19F and 13C NMR analyses.

reactant | Ethyl 6-chloro-8-(2-phenylethynyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.74 mmol, 0.30 g | ClC=1C=C2C=C(C(OC2=C(C1)C#CC1=CC=CC=C1)C(F)(F)F)C(=O)OCC | C21H14ClF3O3
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6-chloro-8-(2-phenylethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.51 mmol, 0.21 g | ClC=1C=C2C=C(C(OC2=C(C1)CCC1=CC=CC=C1)C(F)(F)F)C(=O)OCC | C21H18ClF3O3
